US08217176B2
Production of N-[2-(dimethylamino)ethyl]-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide hydrochloride
To a solution of the N-[2-(dimethylamino)ethyl]-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide (180 mg, 0.38 mmol) in ethyl acetate (10 mL) was added 4N hydrogen chloride ethyl acetate solution (0.1 mL), and the obtained precipitate was collected by filtration, washed with diethyl ether, and dried under reduced pressure to give the title compound (144 mg, 55%) as a white powder.

reactant | N-[2-(dimethylamino)ethyl]-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide | 0.38 mmol, 180 mg | CN(CCN(C(=O)C1=C(C=2C(N(C=3C=CC=CC3C2S1)CC(C1=CC=CC=C1)=O)=O)OC)C)C | C26H27N3O4S
reactant | hydrogen chloride ethyl acetate | 4N, 0.1 mL | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(dimethylamino)ethyl]-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide hydrochloride | 144 mg, 55% | Cl.CN(CCN(C(=O)C1=C(C=2C(N(C=3C=CC=CC3C2S1)CC(C1=CC=CC=C1)=O)=O)OC)C)C | InChI=1S/C26H27N3O4S.ClH/c1-27(2)14-15-28(3)26(32)24-22(33-4)21-23(34-24)18-12-8-9-13-19(18)29(25(21)31)16-20(30)17-10-6-5-7-11-17;/h5-13H,14-16H2,1-4H3;1H
